* CIM Integration SPICE Validation — 8x8 Binary MVM
* W = [[0.0, 1.0, 0.0, 0.0, 0.0, 1.0, 1.0, 1.0], [1.0, 0.0, 0.0, 1.0, 0.0, 0.0, 0.0, 1.0], [1.0, 0.0, 1.0, 1.0, 1.0, 1.0, 1.0, 0.0], [1.0, 0.0, 0.0, 1.0, 0.0, 0.0, 0.0, 1.0], [1.0, 0.0, 1.0, 1.0, 1.0, 1.0, 0.0, 0.0], [1.0, 1.0, 0.0, 0.0, 1.0, 0.0, 1.0, 1.0], [0.0, 0.0, 1.0, 1.0, 0.0, 1.0, 0.0, 1.0], [0.0, 0.0, 0.0, 1.0, 1.0, 0.0, 1.0, 0.0]]
* x = [0, 1, 1, 0, 1, 1, 0, 0]

.lib "sky130_models/sky130.lib.spice" tt
.param supply=1.8
.param Wpre=10 Lpre=0.15 Tpre_ns=20 Cbl_extra_ff=10000
.param T_LSB=5n
.param t_start={Tpre_ns*1e-9+1n}

.subckt cim_bitcell bl blb wl wwl q qb vdd vss
XPL q qb vdd vdd sky130_fd_pr__pfet_01v8 w=0.55u l=0.15u
XPR qb q vdd vdd sky130_fd_pr__pfet_01v8 w=0.55u l=0.15u
XNL q qb vss vss sky130_fd_pr__nfet_01v8 w=0.84u l=0.15u
XNR qb q vss vss sky130_fd_pr__nfet_01v8 w=0.84u l=0.15u
XAXL blb wwl q vss sky130_fd_pr__nfet_01v8 w=0.42u l=0.15u
XAXR bl wwl qb vss sky130_fd_pr__nfet_01v8 w=0.42u l=0.15u
XRD1 bl q mid vss sky130_fd_pr__nfet_01v8 w=0.42u l=1.0u
XRD2 mid wl vss vss sky130_fd_pr__nfet_01v8 w=0.42u l=1.0u
.ends cim_bitcell

.subckt precharge bl pre vdd vss
XPRE vdd pre bl vdd sky130_fd_pr__pfet_01v8 w=10u l=0.15u
.ends precharge

Vdd vdd 0 {supply}
Vss vss 0 0

Vpre pre 0 PWL(0 0 {Tpre_ns*1e-9} 0 {(Tpre_ns+0.1)*1e-9} 1.8)

Xpre0 bl0 pre vdd vss precharge
Xpre1 bl1 pre vdd vss precharge
Xpre2 bl2 pre vdd vss precharge
Xpre3 bl3 pre vdd vss precharge
Xpre4 bl4 pre vdd vss precharge
Xpre5 bl5 pre vdd vss precharge
Xpre6 bl6 pre vdd vss precharge
Xpre7 bl7 pre vdd vss precharge
Cbl0 bl0 0 {Cbl_extra_ff*1e-15}
Cbl1 bl1 0 {Cbl_extra_ff*1e-15}
Cbl2 bl2 0 {Cbl_extra_ff*1e-15}
Cbl3 bl3 0 {Cbl_extra_ff*1e-15}
Cbl4 bl4 0 {Cbl_extra_ff*1e-15}
Cbl5 bl5 0 {Cbl_extra_ff*1e-15}
Cbl6 bl6 0 {Cbl_extra_ff*1e-15}
Cbl7 bl7 0 {Cbl_extra_ff*1e-15}

Vwl0 wl0 0 0
Vwl1 wl1 0 PWL(0 0 {t_start} 0 {t_start+0.1n} 1.8 {t_start+T_LSB} 1.8 {t_start+T_LSB+0.1n} 0)
Vwl2 wl2 0 PWL(0 0 {t_start} 0 {t_start+0.1n} 1.8 {t_start+T_LSB} 1.8 {t_start+T_LSB+0.1n} 0)
Vwl3 wl3 0 0
Vwl4 wl4 0 PWL(0 0 {t_start} 0 {t_start+0.1n} 1.8 {t_start+T_LSB} 1.8 {t_start+T_LSB+0.1n} 0)
Vwl5 wl5 0 PWL(0 0 {t_start} 0 {t_start+0.1n} 1.8 {t_start+T_LSB} 1.8 {t_start+T_LSB+0.1n} 0)
Vwl6 wl6 0 0
Vwl7 wl7 0 0

Vwwl0 wwl0 0 0
Vwwl1 wwl1 0 0
Vwwl2 wwl2 0 0
Vwwl3 wwl3 0 0
Vwwl4 wwl4 0 0
Vwwl5 wwl5 0 0
Vwwl6 wwl6 0 0
Vwwl7 wwl7 0 0

Xcell_r0_c0 bl0 blb0 wl0 wwl0 q_r0c0 qb_r0c0 vdd vss cim_bitcell
Xcell_r0_c1 bl1 blb1 wl0 wwl0 q_r0c1 qb_r0c1 vdd vss cim_bitcell
Xcell_r0_c2 bl2 blb2 wl0 wwl0 q_r0c2 qb_r0c2 vdd vss cim_bitcell
Xcell_r0_c3 bl3 blb3 wl0 wwl0 q_r0c3 qb_r0c3 vdd vss cim_bitcell
Xcell_r0_c4 bl4 blb4 wl0 wwl0 q_r0c4 qb_r0c4 vdd vss cim_bitcell
Xcell_r0_c5 bl5 blb5 wl0 wwl0 q_r0c5 qb_r0c5 vdd vss cim_bitcell
Xcell_r0_c6 bl6 blb6 wl0 wwl0 q_r0c6 qb_r0c6 vdd vss cim_bitcell
Xcell_r0_c7 bl7 blb7 wl0 wwl0 q_r0c7 qb_r0c7 vdd vss cim_bitcell
Xcell_r1_c0 bl0 blb0 wl1 wwl1 q_r1c0 qb_r1c0 vdd vss cim_bitcell
Xcell_r1_c1 bl1 blb1 wl1 wwl1 q_r1c1 qb_r1c1 vdd vss cim_bitcell
Xcell_r1_c2 bl2 blb2 wl1 wwl1 q_r1c2 qb_r1c2 vdd vss cim_bitcell
Xcell_r1_c3 bl3 blb3 wl1 wwl1 q_r1c3 qb_r1c3 vdd vss cim_bitcell
Xcell_r1_c4 bl4 blb4 wl1 wwl1 q_r1c4 qb_r1c4 vdd vss cim_bitcell
Xcell_r1_c5 bl5 blb5 wl1 wwl1 q_r1c5 qb_r1c5 vdd vss cim_bitcell
Xcell_r1_c6 bl6 blb6 wl1 wwl1 q_r1c6 qb_r1c6 vdd vss cim_bitcell
Xcell_r1_c7 bl7 blb7 wl1 wwl1 q_r1c7 qb_r1c7 vdd vss cim_bitcell
Xcell_r2_c0 bl0 blb0 wl2 wwl2 q_r2c0 qb_r2c0 vdd vss cim_bitcell
Xcell_r2_c1 bl1 blb1 wl2 wwl2 q_r2c1 qb_r2c1 vdd vss cim_bitcell
Xcell_r2_c2 bl2 blb2 wl2 wwl2 q_r2c2 qb_r2c2 vdd vss cim_bitcell
Xcell_r2_c3 bl3 blb3 wl2 wwl2 q_r2c3 qb_r2c3 vdd vss cim_bitcell
Xcell_r2_c4 bl4 blb4 wl2 wwl2 q_r2c4 qb_r2c4 vdd vss cim_bitcell
Xcell_r2_c5 bl5 blb5 wl2 wwl2 q_r2c5 qb_r2c5 vdd vss cim_bitcell
Xcell_r2_c6 bl6 blb6 wl2 wwl2 q_r2c6 qb_r2c6 vdd vss cim_bitcell
Xcell_r2_c7 bl7 blb7 wl2 wwl2 q_r2c7 qb_r2c7 vdd vss cim_bitcell
Xcell_r3_c0 bl0 blb0 wl3 wwl3 q_r3c0 qb_r3c0 vdd vss cim_bitcell
Xcell_r3_c1 bl1 blb1 wl3 wwl3 q_r3c1 qb_r3c1 vdd vss cim_bitcell
Xcell_r3_c2 bl2 blb2 wl3 wwl3 q_r3c2 qb_r3c2 vdd vss cim_bitcell
Xcell_r3_c3 bl3 blb3 wl3 wwl3 q_r3c3 qb_r3c3 vdd vss cim_bitcell
Xcell_r3_c4 bl4 blb4 wl3 wwl3 q_r3c4 qb_r3c4 vdd vss cim_bitcell
Xcell_r3_c5 bl5 blb5 wl3 wwl3 q_r3c5 qb_r3c5 vdd vss cim_bitcell
Xcell_r3_c6 bl6 blb6 wl3 wwl3 q_r3c6 qb_r3c6 vdd vss cim_bitcell
Xcell_r3_c7 bl7 blb7 wl3 wwl3 q_r3c7 qb_r3c7 vdd vss cim_bitcell
Xcell_r4_c0 bl0 blb0 wl4 wwl4 q_r4c0 qb_r4c0 vdd vss cim_bitcell
Xcell_r4_c1 bl1 blb1 wl4 wwl4 q_r4c1 qb_r4c1 vdd vss cim_bitcell
Xcell_r4_c2 bl2 blb2 wl4 wwl4 q_r4c2 qb_r4c2 vdd vss cim_bitcell
Xcell_r4_c3 bl3 blb3 wl4 wwl4 q_r4c3 qb_r4c3 vdd vss cim_bitcell
Xcell_r4_c4 bl4 blb4 wl4 wwl4 q_r4c4 qb_r4c4 vdd vss cim_bitcell
Xcell_r4_c5 bl5 blb5 wl4 wwl4 q_r4c5 qb_r4c5 vdd vss cim_bitcell
Xcell_r4_c6 bl6 blb6 wl4 wwl4 q_r4c6 qb_r4c6 vdd vss cim_bitcell
Xcell_r4_c7 bl7 blb7 wl4 wwl4 q_r4c7 qb_r4c7 vdd vss cim_bitcell
Xcell_r5_c0 bl0 blb0 wl5 wwl5 q_r5c0 qb_r5c0 vdd vss cim_bitcell
Xcell_r5_c1 bl1 blb1 wl5 wwl5 q_r5c1 qb_r5c1 vdd vss cim_bitcell
Xcell_r5_c2 bl2 blb2 wl5 wwl5 q_r5c2 qb_r5c2 vdd vss cim_bitcell
Xcell_r5_c3 bl3 blb3 wl5 wwl5 q_r5c3 qb_r5c3 vdd vss cim_bitcell
Xcell_r5_c4 bl4 blb4 wl5 wwl5 q_r5c4 qb_r5c4 vdd vss cim_bitcell
Xcell_r5_c5 bl5 blb5 wl5 wwl5 q_r5c5 qb_r5c5 vdd vss cim_bitcell
Xcell_r5_c6 bl6 blb6 wl5 wwl5 q_r5c6 qb_r5c6 vdd vss cim_bitcell
Xcell_r5_c7 bl7 blb7 wl5 wwl5 q_r5c7 qb_r5c7 vdd vss cim_bitcell
Xcell_r6_c0 bl0 blb0 wl6 wwl6 q_r6c0 qb_r6c0 vdd vss cim_bitcell
Xcell_r6_c1 bl1 blb1 wl6 wwl6 q_r6c1 qb_r6c1 vdd vss cim_bitcell
Xcell_r6_c2 bl2 blb2 wl6 wwl6 q_r6c2 qb_r6c2 vdd vss cim_bitcell
Xcell_r6_c3 bl3 blb3 wl6 wwl6 q_r6c3 qb_r6c3 vdd vss cim_bitcell
Xcell_r6_c4 bl4 blb4 wl6 wwl6 q_r6c4 qb_r6c4 vdd vss cim_bitcell
Xcell_r6_c5 bl5 blb5 wl6 wwl6 q_r6c5 qb_r6c5 vdd vss cim_bitcell
Xcell_r6_c6 bl6 blb6 wl6 wwl6 q_r6c6 qb_r6c6 vdd vss cim_bitcell
Xcell_r6_c7 bl7 blb7 wl6 wwl6 q_r6c7 qb_r6c7 vdd vss cim_bitcell
Xcell_r7_c0 bl0 blb0 wl7 wwl7 q_r7c0 qb_r7c0 vdd vss cim_bitcell
Xcell_r7_c1 bl1 blb1 wl7 wwl7 q_r7c1 qb_r7c1 vdd vss cim_bitcell
Xcell_r7_c2 bl2 blb2 wl7 wwl7 q_r7c2 qb_r7c2 vdd vss cim_bitcell
Xcell_r7_c3 bl3 blb3 wl7 wwl7 q_r7c3 qb_r7c3 vdd vss cim_bitcell
Xcell_r7_c4 bl4 blb4 wl7 wwl7 q_r7c4 qb_r7c4 vdd vss cim_bitcell
Xcell_r7_c5 bl5 blb5 wl7 wwl7 q_r7c5 qb_r7c5 vdd vss cim_bitcell
Xcell_r7_c6 bl6 blb6 wl7 wwl7 q_r7c6 qb_r7c6 vdd vss cim_bitcell
Xcell_r7_c7 bl7 blb7 wl7 wwl7 q_r7c7 qb_r7c7 vdd vss cim_bitcell

.ic v(q_r0c0)=0 v(qb_r0c0)=1.8
.ic v(q_r0c1)=1.8 v(qb_r0c1)=0
.ic v(q_r0c2)=0 v(qb_r0c2)=1.8
.ic v(q_r0c3)=0 v(qb_r0c3)=1.8
.ic v(q_r0c4)=0 v(qb_r0c4)=1.8
.ic v(q_r0c5)=1.8 v(qb_r0c5)=0
.ic v(q_r0c6)=1.8 v(qb_r0c6)=0
.ic v(q_r0c7)=1.8 v(qb_r0c7)=0
.ic v(q_r1c0)=1.8 v(qb_r1c0)=0
.ic v(q_r1c1)=0 v(qb_r1c1)=1.8
.ic v(q_r1c2)=0 v(qb_r1c2)=1.8
.ic v(q_r1c3)=1.8 v(qb_r1c3)=0
.ic v(q_r1c4)=0 v(qb_r1c4)=1.8
.ic v(q_r1c5)=0 v(qb_r1c5)=1.8
.ic v(q_r1c6)=0 v(qb_r1c6)=1.8
.ic v(q_r1c7)=1.8 v(qb_r1c7)=0
.ic v(q_r2c0)=1.8 v(qb_r2c0)=0
.ic v(q_r2c1)=0 v(qb_r2c1)=1.8
.ic v(q_r2c2)=1.8 v(qb_r2c2)=0
.ic v(q_r2c3)=1.8 v(qb_r2c3)=0
.ic v(q_r2c4)=1.8 v(qb_r2c4)=0
.ic v(q_r2c5)=1.8 v(qb_r2c5)=0
.ic v(q_r2c6)=1.8 v(qb_r2c6)=0
.ic v(q_r2c7)=0 v(qb_r2c7)=1.8
.ic v(q_r3c0)=1.8 v(qb_r3c0)=0
.ic v(q_r3c1)=0 v(qb_r3c1)=1.8
.ic v(q_r3c2)=0 v(qb_r3c2)=1.8
.ic v(q_r3c3)=1.8 v(qb_r3c3)=0
.ic v(q_r3c4)=0 v(qb_r3c4)=1.8
.ic v(q_r3c5)=0 v(qb_r3c5)=1.8
.ic v(q_r3c6)=0 v(qb_r3c6)=1.8
.ic v(q_r3c7)=1.8 v(qb_r3c7)=0
.ic v(q_r4c0)=1.8 v(qb_r4c0)=0
.ic v(q_r4c1)=0 v(qb_r4c1)=1.8
.ic v(q_r4c2)=1.8 v(qb_r4c2)=0
.ic v(q_r4c3)=1.8 v(qb_r4c3)=0
.ic v(q_r4c4)=1.8 v(qb_r4c4)=0
.ic v(q_r4c5)=1.8 v(qb_r4c5)=0
.ic v(q_r4c6)=0 v(qb_r4c6)=1.8
.ic v(q_r4c7)=0 v(qb_r4c7)=1.8
.ic v(q_r5c0)=1.8 v(qb_r5c0)=0
.ic v(q_r5c1)=1.8 v(qb_r5c1)=0
.ic v(q_r5c2)=0 v(qb_r5c2)=1.8
.ic v(q_r5c3)=0 v(qb_r5c3)=1.8
.ic v(q_r5c4)=1.8 v(qb_r5c4)=0
.ic v(q_r5c5)=0 v(qb_r5c5)=1.8
.ic v(q_r5c6)=1.8 v(qb_r5c6)=0
.ic v(q_r5c7)=1.8 v(qb_r5c7)=0
.ic v(q_r6c0)=0 v(qb_r6c0)=1.8
.ic v(q_r6c1)=0 v(qb_r6c1)=1.8
.ic v(q_r6c2)=1.8 v(qb_r6c2)=0
.ic v(q_r6c3)=1.8 v(qb_r6c3)=0
.ic v(q_r6c4)=0 v(qb_r6c4)=1.8
.ic v(q_r6c5)=1.8 v(qb_r6c5)=0
.ic v(q_r6c6)=0 v(qb_r6c6)=1.8
.ic v(q_r6c7)=1.8 v(qb_r6c7)=0
.ic v(q_r7c0)=0 v(qb_r7c0)=1.8
.ic v(q_r7c1)=0 v(qb_r7c1)=1.8
.ic v(q_r7c2)=0 v(qb_r7c2)=1.8
.ic v(q_r7c3)=1.8 v(qb_r7c3)=0
.ic v(q_r7c4)=1.8 v(qb_r7c4)=0
.ic v(q_r7c5)=0 v(qb_r7c5)=1.8
.ic v(q_r7c6)=1.8 v(qb_r7c6)=0
.ic v(q_r7c7)=0 v(qb_r7c7)=1.8

.ic v(bl0)=1.8
.ic v(bl1)=1.8
.ic v(bl2)=1.8
.ic v(bl3)=1.8
.ic v(bl4)=1.8
.ic v(bl5)=1.8
.ic v(bl6)=1.8
.ic v(bl7)=1.8

.tran 0.05n 50n UIC

.meas tran vbl0 FIND v(bl0) AT=40n
.meas tran vbl1 FIND v(bl1) AT=40n
.meas tran vbl2 FIND v(bl2) AT=40n
.meas tran vbl3 FIND v(bl3) AT=40n
.meas tran vbl4 FIND v(bl4) AT=40n
.meas tran vbl5 FIND v(bl5) AT=40n
.meas tran vbl6 FIND v(bl6) AT=40n
.meas tran vbl7 FIND v(bl7) AT=40n

.save v(bl0) v(bl1) v(bl2) v(bl3) v(bl4) v(bl5) v(bl6) v(bl7) v(wl0) v(wl1) v(wl2) v(wl3) v(wl4) v(wl5) v(wl6) v(wl7) v(pre)

.control
run
wrdata spice_bl_results.txt v(bl0) v(bl1) v(bl2) v(bl3) v(bl4) v(bl5) v(bl6) v(bl7)
.endc
.end